US06605629B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole (378 mg), ethyl isonipecotate (1.57 g) and 2-butanone (10 ml) was stirred with heating under reflux for 6 hours. The reaction mixture was diluted with ethyl acetate (100 ml), and the organic layer was washed with a 10% aqueous solution of citric acid (50 ml) and dried over anhydrous magnesium sulfate. After the organic layer was concentrated, the residue was recrystallized from ethyl acetate-hexane to give ethyl N-[4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]-2-oxazolyl]isonipecotate as pale yellow prisms (345 mg, 69%). Melting point 80-81° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole | 378 mg | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCOC1=C(C=CC=C1)OC | C19H17Cl2NO3
reactant | ethyl isonipecotate | 1.57 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 2-butanone | 10 ml | CC(CC)=O | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | ethyl N-[4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]-2-oxazolyl]isonipecotate | 345 mg, 69% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)OC)N1CCC(C(=O)OCC)CC1 | C27H31ClN2O5
